US04496551
Preparation of Chloromethyl(dichloro)phenylsilane
A solution of 25.1 ml (36.8 g, 0.200 mol) of chloromethyltrichlorosilane in 400 ml dry tetrahydrofuran was cooled to -78° under nitrogen and stirred vigorously while 48.0 ml (0.100 mol) of 2.1 molar phenyllithium was slowly dripped in over 1 hour. After stirring another 30 minutes at -78° the solution was allowed to warm to room temperature and evaporated to about 200 ml. Addition of 500 ml ether, filtration to remove precipitated lithium chloride, and evaporation of the filtrate left 25.0 g of liquid. Distillation gave 6.5 g (29%) of the title compound as a colorless liquid: bp 62°-82° (0.15 mm); nmr (CDCl3): δ 3.3 (s, 2) and 7.1-7.9 (m, 5).

reactant | chloromethyltrichlorosilane | 0.200 mol, 25.1 ml, 36.8 g | ClC[Si](Cl)(Cl)Cl | CH2Cl4Si
reactant | phenyllithium | 0.100 mol, 2.1 molar, 48.0 ml | C1(=CC=CC=C1)[Li]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | Chloromethyl(dichloro)phenylsilane | 6.5 g, 29% | ClC[Si](C1=CC=CC=C1)(Cl)Cl | C7H7Cl3Si
